US05192357
Methyl o-tolylacetate (100 g) was dissolved in a mixture of methyl formate (450 ml) and dimethyl formamide (200 ml). The solution was added to a petrol washed suspension of sodium hydride (from 36.5 g of an 80% dispersion in oil) in dimethylformamide (100 ml) with cooling. The mixture was then stirred at room temperature overnight. Excess methyl formate and most of the dimethylformamide were evaporated and water (500 ml) was added. The mixture was treated with ether and the aqueous phase separated, acidified and extracted with ether. The extract was worked up in conventional manner to give a brown oil. This was dissolved in tetrahydrofuran and the solution added dropwise to sodium hydride (16.5 g of 80% dispersion in oil) in tetrahydrofuran (50 ml) with cooling. When no more hydrogen had evolved, methyl iodide (35 ml) was added and the mixture heated to reflux for 5 hours. Methanol (5 ml) was added and the solvent evaporated. The resulting oil was partitioned between ether and water and the organic phase worked up in conventional manner to give to give methyl (Z)-3-methoxy-2-(o-tolyl)prop-2-enoate, m.p. 68°-70°. This product (185 g) was dissolved in carbon tetrachloride (1250 ml). N-Bromosuccinimide (159.3 ) was added and the mixture heated under reflux for 3 hours. The reaction mixture was then cooled and worked up to give a light brown oil. The crude product was triturated with a 10% solution of di-isopropyl ether in light petroleum to give methyl (E)-3-methoxy-2-[(2-bromomethyl)phenyl]prop-2-enoate, m.p. 87°-90° C. 2-Mercaptobenzothiazole (101.87 g) in tetrahydrofuran (600 ml) was added dropwise with stirring to a petrol washed suspension of sodium hydride (from 18.42 g of 80% dispersion in oil), in tetrahydrofuran (200 ml). The mixture was heated under reflux for 30 minutes and cooled to room temperature. A solution of the bromomethyl compound (175 g) in tetrahydrofuran (1000 ml) was added over one hour and the mixture stirred for 5 hours at room temperature. Aqueous tetrahydrofuran was added to quench the reaction and the mixture was evaporated. The residue was worked up in conventional manner to give methyl (E)-2-[2-[[(2-benzothiazolyl)thio]-methyl]phenyl]-3-methoxy-2-propenoate, m.p. 77°-78°. (Compound 1).

reactant | Methyl o-tolylacetate | 100 g | C1(=C(C=CC=C1)CC(=O)OC)C | C10H12O2
reactant | sodium hydride | 16.5 g | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | methyl iodide | 35 ml | CI | CH3I
reactant | methyl formate | 450 ml | C(=O)OC | C2H4O2
solvent | dimethyl formamide | 200 ml | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | Methanol | 5 ml | CO | CH4O
product | methyl (Z)-3-methoxy-2-(o-tolyl)prop-2-enoate | CO\C=C(/C(=O)OC)\C1=C(C=CC=C1)C | C12H14O3
